US07122580B2
(2S)-[2-(4-Benzyloxy-benzyloxy)-5-bromo-benzoylamino]-3-biphenyl-4-yl-propionic acid methyl ester (60 mg, 0.092 mmol) was dissolved in 5 mL of THF-MeOH (4-1), cooled to 0° C. and 1.1 equiv of 2 N LiOH added. After 30 minutes, 2.2 additional equiv of 2N LiOH was added and the reaction stirred for 30 minutes. The reaction was worked up according to general procedure C to give (2S)-[2-(4-Benzyloxy-benzyloxy)-5-bromo-benzoylamino]-3-biphenyl-4-yl-propionic acid (35 mg, 60%).

reactant | (2S)-[2-(4-Benzyloxy-benzyloxy)-5-bromo-benzoylamino]-3-biphenyl-4-yl-propionic acid methyl ester | 0.092 mmol, 60 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=C(C=CC(=C1)Br)OCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C37H32BrNO5
reactant | LiOH | 2 N, 1.1 equiv | [Li+].[OH-]
reactant | LiOH | 2N | [Li+].[OH-]
solvent | THF MeOH | 5 mL | C1CCOC1.CO
product | (2S)-[2-(4-Benzyloxy-benzyloxy)-5-bromo-benzoylamino]-3-biphenyl-4-yl-propionic acid | 35 mg, 60% | C(C1=CC=CC=C1)OC1=CC=C(COC2=C(C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=CC=CC=C3)C=C(C=C2)Br)C=C1 | C36H30BrNO5
